US08912208B2
C. (4-{4-[5-(6-Trifluoromethyl-pyridin-3-ylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid
A THF solution of (4-{4-[5-(6-trifluoromethyl-pyridin-3-ylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester was treated with 10% aqueous LiOH and heated to 50° C. overnight. Upon reaction completion, the mixture was acidified with concentrated HCl. The resulting precipitate was isolated by filtration to afford the title compound: 1H NMR (400 MHz, DMSO-d6) 1.08-1.19 (m, 1 H) 1.14 (dd, J=12.63, 2.27 Hz, 1 H) 1.44-1.56 (m, 1 H) 1.50 (dd, J=12.51, 2.65 Hz, 1 H) 1.75 (br. S., 1 H) 1.84 (d, J=10.61 Hz, 4 H) 2.14 (d, J=6.82 Hz, 2 H) 2.54 (m, 1 H) 7.33 (d, J=8.34 Hz, 2 H) 7.65 (d, J=2.53 Hz, 1 H) 7.68-7.74 (m, 1 H) 7.70 (d, J=8.34 Hz, 1 H) 7.89 (d, J=8.59 Hz, 1 H) 7.95 (d, J=8.59 Hz, 2 H) 8.46 (d, J=2.78 Hz, 1 H) 8.54 (d, J=2.53 Hz, 1 H) 9.20 (s, 1 H); (M+H)+ 456.3. Alternatively, the methyl ester can be dissolved in a mixture of THF and water, and treated with aqueous sodium hydroxide (4 equiv). The mixture can then be stirred at 50 degrees for 12 hours, at which point the THF is removed under reduced pressure to yield an opaque, white slurry, which affords the title compound as the corresponding sodium salt upon filtration. 1H NMR (DMSO-d6, 500 MHz) δ 10.05 (s, 1 H), 8.59 (d, 1 H, J=2.8 Hz), 8.54 (s, 1 H), 7.92 (d, 2 H, J=8.2 Hz), 7.86 (d, 1 H, J=8.8 Hz), 7.75 (dd, 1 H, J=8.7, 2.7 Hz), 7.69 (s, 2 H), 7.27 (d, 2 H, J=8.5 Hz), 2.45 (m, 1 H), 1.84 (m, 4 H), 1.67-1.80 (m, 3 H), 1.41 (m, 2 H), 1.02 (m, 2 H); MS m/z 456 (M−Na+2H)+.

reactant | (4-{4-[5-(6-trifluoromethyl-pyridin-3-ylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)NC=1C=NC(=CC1)C(F)(F)F)=O | C26H26F3N3O2
reactant | LiOH | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | (4-{4-[5-(6-Trifluoromethyl-pyridin-3-ylamino)-pyridin-2-yl]-phenyl}-cyclohexyl)-acetic acid | FC(C1=CC=C(C=N1)NC=1C=CC(=NC1)C1=CC=C(C=C1)C1CCC(CC1)CC(=O)O)(F)F | C25H24F3N3O2
